US04624954
Step (2) Preparation of 6,7,8,9-Tetrahydro-10-methyl-9-(1-pyrrolidinyl)pyrido[1,2-a]indole Hydrochloride
To a solution of 6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indol-9-ol (2.01 g, 10 mmol) in dry pyridine (100 mL) was added a solution of p-toluenesulfonyl chloride (7.6 g, 10 mmol) in the same solvent (50 mL) at 5°-10° C. Maintaining this temperature, stirring was continued for 60 minutes, and then, the reaction mixture was treated with distilled pyrrolidine (7.1 g, 100 mmol), and stirred at room temperature for 8 hours. The resultant solution was poured into ice-water, and the product was extracted with methylene chloride. The combined extracts were washed with water, dried (MgSO4), filtered, and evaporated. The residue was chromatographed using methylene chloride/methanol 99:1. The title base 1.8 g (70%) was converted to the hydrochloride salt in acetonitrile with ethereal HCl, and recrystallized from ethanol, m.p. 179°-181° C. (analytical specimen m.p. 182° C.).

reactant | 6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indol-9-ol | 10 mmol, 2.01 g | CC1=C2N(C3=CC=CC=C13)CCCC2O | C13H15NO
reactant | p-toluenesulfonyl chloride | 10 mmol, 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyrrolidine | 100 mmol, 7.1 g | N1CCCC1 | C4H9N
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 6,7,8,9-Tetrahydro-10-methyl-9-(1-pyrrolidinyl)pyrido[1,2-a]indole Hydrochloride | Cl.CC1=C2N(C3=CC=CC=C13)CCCC2N2CCCC2 | InChI=1S/C17H22N2.ClH/c1-13-14-7-2-3-8-15(14)19-12-6-9-16(17(13)19)18-10-4-5-11-18;/h2-3,7-8,16H,4-6,9-12H2,1H3;1H
